US08895571B2
Step H: 6-[(1S)-2-amino-1-(3-fluorobenzyl)ethyl]-2-(4-chloro-1-methyl-1H-pyrazol-5-yl)-6,7-dihydro-5H-pyrrolo[3,4-b]pyridin-5-one
2-[(2S)-2-[2-(4-Chloro-1-methyl-1H-pyrazol-5-yl)-5-oxo-5,7-dihydro-6H-pyrrolo[3,4-b]pyridin-6-yl]-3-(3-fluorophenyl)propyl]-1H-isoindole-1,3(2H)-dione (0.050 g, 0.094 mmol) was dissolved in methanol (2 mL), and hydrazine (0.06 g, 2 mmol) was added. The reaction was stirred at 60° C. for 2 hr. After concentration, the residue was purified by pH=10 Prep.—HPLC to give the desired product as white powder. LC-MS found: 400.1 (M+H)+.

reactant | 2-[(2S)-2-[2-(4-Chloro-1-methyl-1H-pyrazol-5-yl)-5-oxo-5,7-dihydro-6H-pyrrolo[3,4-b]pyridin-6-yl]-3-(3-fluorophenyl)propyl]-1H-isoindole-1,3(2H)-dione | 0.094 mmol, 0.050 g | ClC=1C=NN(C1C1=CC=C2C(=N1)CN(C2=O)[C@H](CN2C(C1=CC=CC=C1C2=O)=O)CC2=CC(=CC=C2)F)C | C28H21ClFN5O3
reactant | hydrazine | 2 mmol, 0.06 g | NN | H4N2
solvent | methanol | 2 mL | CO | CH4O
product | 6-[(1S)-2-amino-1-(3-fluorobenzyl)ethyl]-2-(4-chloro-1-methyl-1H-pyrazol-5-yl)-6,7-dihydro-5H-pyrrolo[3,4-b]pyridin-5-one | NC[C@H](CC1=CC(=CC=C1)F)N1CC2=NC(=CC=C2C1=O)C1=C(C=NN1C)Cl | C20H19ClFN5O
